US05824690
Synthesis of (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide
Prepare by the method of Example 88.6 using (S)-2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride to give, after chromatography on silica gel eluting sequentially with ethyl acetate, dichloromethane, 2% methanol/dichloromethane, 4% methanol/dichloromethane, 6% methanol/dichloromethane, and then 8% methanol/dichloromethane, the title compound: Rf =0.27 (silica gel, methanol/dichloromethane 1/9).

reactant | (S)-2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | ClC=1C=C(C=CC1Cl)[C@]1(CN(CC1)C(C1=CC=CC=C1)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride | Cl.CN1CCN(CC1)C(=O)N.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | (R)-1-[2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide | CN1CCN(CC1)C(=O)N.ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(C1=CC=CC=C1)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C31H32Cl2N2O3.C6H13N3O/c32-26-12-11-25(21-27(26)33)30(14-20-35(22-30)28(36)23-7-3-1-4-8-23)13-17-34-18-15-31(16-19-34,29(37)38)24-9-5-2-6-10-24;1-8-2-4-9(5-3-8)6(7)10/h1-12,21H,13-20,22H2,(H,37,38);2-5H2,1H3,(H2,7,10)/t30-;/m0./s1
